US04070366
2-Carbethoxy-3-ethyl-4-methyl-5-n-propylpyrrole
The crude product, obtained in Example 68 but using 2-carbethoxy-4-methyl-5-n-propylpyrrole and paraldehyde, was crystallized from aqueous ethanol, sublimed, recrystallized and resublimed, m.p. 58°-59.5° C.

reactant | 2-carbethoxy-4-methyl-5-n-propylpyrrole | C(=O)(OCC)C=1NC(=C(C1)C)CCC | C11H17NO2
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
product | 2-Carbethoxy-3-ethyl-4-methyl-5-n-propylpyrrole | C(=O)(OCC)C=1NC(=C(C1CC)C)CCC | C13H21NO2
